US04159338
(D) 4-(4-Chlorophenyl)-5-(2-thienyl)-1H-2-imidazolethiol
A mixture of 9.4 g of 4-(4-chlorophenyl)-5-(2-thienyl)-1H-imidazole, 2 g of sulfur, and 50 ml of tetramethylene sulfone was stirred under nitrogen and heated to 200° C. for 8 hrs. It was cooled, poured into water, filtered and washed well with water to give 11.5 g. This was dissolved in dimethylformamide and chromatographed on a column 6 cm diameter by 125 cm long of alumina (Woelm neutral activity grade 1) using dimethylformamide to elute. A yield of 5.6 g was obtained as the dimethylformamide adduct. A sample was dried by heating under a high vacuum, m.p. 274.5°-276° C.

reactant | 4-(4-chlorophenyl)-5-(2-thienyl)-1H-imidazole | 9.4 g | ClC1=CC=C(C=C1)C=1N=CNC1C=1SC=CC1 | C13H9ClN2S
reactant | sulfur | 2 g | [S] | S
reactant | tetramethylene sulfone | 50 ml | C1CCCS1(=O)=O | C4H8O2S
reactant | water | O | H2O
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 4-(4-Chlorophenyl)-5-(2-thienyl)-1H-2-imidazolethiol | ClC1=CC=C(C=C1)C=1N=C(NC1C=1SC=CC1)S | C13H9ClN2S2
